US09108952B2
A 5 liter three-necked round bottom flask was fitted with a nitrogen inlet over a dropping funnel, a mechanical stirrer, and a reflux condenser. A tube from the top of the condenser was plumbed through a 1 liter bump flask and then into a sparge tube in another 5 liter three-neck stirred flask filled with 2.5 liter of 12% pool bleach. The outlet of the bleach flask was plumbed through an alligator trap with about 250 mL of 12% bleach solution. The reactor was charged with 2-amino-N-methylacetamide (160 g, 1.81 mol) and acetonitrile (3 L) to give a cloudy solution. The dropping funnel was charged with methylpyridine-3-carbodithioate (307 g, 1.81 mol) and acetonitrile (200 mL). The addition of the dithioate took about 20 min and the reaction was swept with a good stream of nitrogen. A slight exotherm was noted upon the addition (about 3° C.). After the addition was complete, the dropping funnel was rinsed with 550 mL of acetonitrile to bring the total volume of acetonitrile to 3750 mL. After stirring for about 10 min, the red solution precipitated to give a cottage cheese-like solid which would not stir. The dropping funnel was replaced with a ¼ inch straight tube to bubble nitrogen into the reactor. The reactor was heated slowly to about 45-50° C. to form a reddish solution and then allowed to cool back down slowly to room temperature and crystallize to a fine yellowish needle-like solid which stirred easily. The needles were collected by vacuum filtration and washed with 100 mL of acetonitrile. The solid was dried under vacuum at 40° C. for 16 h to give N-methyl-2-(pyridine-3-carbothioamido)acetamide (268.6 g, 71%) as a light yellow solid: mp 135-137° C.; 1H NMR (400 MHz, DMSO-d6) δ 10.65 (s, 1H), 8.95 (dd, J=2.4, 0.7 Hz, 1H), 8.67 (dd, J=4.8, 1.6 Hz, 1H), 8.14 (ddd, J=8.0, 2.3, 1.7 Hz, 1H), 7.95 (d, J=4.3 Hz, 1H), 7.48 (ddd, J=7.9, 4.8, 0.7 Hz, 1H), 4.34 (s, 2H), 2.62 (d, J=4.6 Hz, 3H); 13C NMR (101 MHz, DMSO-d6) δ 194.98, 165.77, 150.37, 146.40, 135.25, 134.04, 121.51, 47.66, 24.41; Anal. Calcd. for C9H11N3OS: C, 51.65; H, 5.30; N, 20.08; S, 15.32. Found: C, 51.47: H, 5.30; N, 20.01; S, 15.53.

reactant | 2-amino-N-methylacetamide | 1.81 mol, 160 g | NCC(=O)NC | C3H8N2O
reactant | methylpyridine-3-carbodithioate | 1.81 mol, 307 g | CSC(=S)C=1C=NC=CC1 | C7H7NS2
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
solvent | acetonitrile | 3 L | C(C)#N | C2H3N
product | N-methyl-2-(pyridine-3-carbothioamido)acetamide | 268.6 g, 71% | CNC(CNC(=S)C=1C=NC=CC1)=O | C9H11N3OS
